US04655973
N-Ethyl-3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoamide
3,7,11,15-Tetramethyl-2,4,6,10,14-hexadecapentaenoic acid and ethylamine were reacted in the same manner as in Example 8 to obtain the desired product as an oil.

reactant | 3,7,11,15-Tetramethyl-2,4,6,10,14-hexadecapentaenoic acid | CC(=CC(=O)O)C=CC=C(CCC=C(CCC=C(C)C)C)C | C20H30O2
reactant | ethylamine | C(C)N | C2H7N
product | N-Ethyl-3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoamide | C(C)NC(C=C(C=CC=C(CCC=C(CCC=C(C)C)C)C)C)=O | C22H35NO
